US07973061B2
{4-[2-(3-Chlorophenyl)ethylcarbamoyl]thiazol-2-ylmethyl}carbamic acid tert-butyl ester:
2-(Boc-aminomethyl)thiazole-4-carboxylic acid (0.5 g, 1.9 mmol) and HATU (0.81 g, 2.1 mmol) were weighed into a flask. DMF (7 mL) and DIEA (0.68 mL, 3.9 mmol) were added. The mixture was stirred for 10 minutes. 2-(3-Chlorophenyl)ethylamine (0.3 g, 1.9 mmol) was added and reaction mixture was stirred for 12 hours. The mixture was diluted EtOAc and water. The layers were separated and the aqueous layer was extracted with 3×EtOAc. The combined organic layers were washed with 5% aqueous lithium chloride and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The material was purified by filtration through a plug of silica gel with 1:1 EtOAc:hexane to afford the title compound (0.73 g, 95%): 1H NMR (400 MHz, d6-DMSO): 8.42 (t, 1H), 8.10 (s, 1H), 7.85 (t, 1H), 7.27 (m, 3H), 7.16 (m, 1H), 4.38 (d, 2H), 3.46 (q, 2H), 2.82 (t, 2H), 1.39 (s, 9H); MS (ESI-LCMS) for C14H14ClN3O3S: 340 (MH-tBu+).

reactant | 2-(Boc-aminomethyl)thiazole-4-carboxylic acid | 1.9 mmol, 0.5 g | C(=O)(OC(C)(C)C)C(C=1SC=C(N1)C(=O)O)N | C10H14N2O4S
reactant | HATU | 2.1 mmol, 0.81 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3.9 mmol, 0.68 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-Chlorophenyl)ethylamine | 1.9 mmol, 0.3 g | ClC=1C=C(C=CC1)CCN | C8H10ClN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | {4-[2-(3-Chlorophenyl)ethylcarbamoyl]thiazol-2-ylmethyl}carbamic acid tert-butyl ester | 0.73 g, 95% | C(C)(C)(C)OC(NCC=1SC=C(N1)C(NCCC1=CC(=CC=C1)Cl)=O)=O | C18H22ClN3O3S
